US04097472
To a stirred suspension of 50 g of finely divided sodium 6,7-dimethoxy-2-naphthalenesulfonate in 100 ml of dimethylformamide was added dropwise 62.2 ml of thionyl chloride at room temperature. After 30 minutes, the reaction mixture was poured into 1 l of ice water, and the precipitate filtered and then dissolved into 250 ml of benzene. The benzene solution was repeatedly washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to dryness in vacuo, and the residue was recrystallized from benzene-n-hexane (1 : 1) to give 32 g of 6,7-dimethoxy-2-naphthalenesulfonyl chloride, M.P. 127.5°-129.5° C.

reactant | sodium 6,7-dimethoxy-2-naphthalenesulfonate | COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)[O-].[Na+]
reactant | thionyl chloride | 62.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6,7-dimethoxy-2-naphthalenesulfonyl chloride | 32 g | COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)Cl | C12H11ClO4S
